US04355037
4-(2-Hydroxy-4-methoxybenzoyl)-1-piperidine carboxylic acid, phenylmethyl ester
To a stirred, ice-cooled mixture of 36.1 g of 4-(2-hydroxy-4-methoxybenzoyl)piperidine, 16.3 g of sodium bicarbonate and 350 ml of dichloromethane, was added dropwise 22.9 ml of benzyl chloroformate in dichloromethane. After the addition was complete, the mixture was stirred at ambient temperature for 1.5 hrs, filtered and the filtrate concentrated to an oil. The oil crystallized. The crystals were collected, washed with hexane and dried to yield 42.4 g (76.5%) of product. Recrystallization from isopropanol gave the analytical sample, mp, 89°-91°.

reactant | 4-(2-hydroxy-4-methoxybenzoyl)piperidine | 36.1 g | OC1=C(C(=O)C2CCNCC2)C=CC(=C1)OC | C13H17NO3
reactant | sodium bicarbonate | 16.3 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 22.9 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 4-(2-Hydroxy-4-methoxybenzoyl)-1-piperidine carboxylic acid, phenylmethyl ester | 42.4 g, 76.5% | OC1=C(C(=O)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC(=C1)OC | C21H23NO5
